US08202873B2
2-[4-(2-Methoxy-ethyl)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane:
Stir together 2-bromo-4-(2-methoxy-ethyl)-benzene (1.21 g, 5.63 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (1.57 g, 6.19 mmol), potassium acetate (1.66 g, 16.89 mmol), and palladium acetate (76 mg, 0.34 mmol) in dry N,N-dimethylformamide (25 mL). Degas the reaction for 20 min. then heat to 85° C. for 40 hr. Cool to room temperature, add water (100 mL) and DCM (20 mL). Extract with DCM (3×50 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®. Purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:isohexane) to give a clear oil (274 mg, 19% yield). 1H-NMR (400 MHz, CDCl3) 7.74 (d, 2H), 7.23 (d, 2H), 3.59 (t, 2H), 3.34 (s, 3H), 2.89 (t, 2H), 1.33 (s, 12H).

reactant | 2-bromo-4-(2-methoxy-ethyl)-benzene | 5.63 mmol, 1.21 g | BrC1=CC=CC(=C1)CCOC | C9H11BrO
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 6.19 mmol, 1.57 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 16.89 mmol, 1.66 g | C(C)(=O)[O-].[K+]
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.34 mmol, 76 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(2-Methoxy-ethyl)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 274 mg, 19% yield | COCCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H23BO3
